US05807887
To a solution of 0.48 g of 4,6-difluoro-5-methylbenzo[b]thiophene in 5 ml of carbon tetrachloride are added 0.92 g of N-bromosuccinimide and 0.01 g of 2,2'-azobisisobutylonitrile, and the resulting mixture is refluxed for 16 hours. After cooling, insolubles are removed from the thus cooled mixture by filtration, and the filtrate obtained is concentrated under reduced pressure. The residue obtained is purified by a column chromatography [eluent: hexane], to obtain 0.18 g of colorless, solid 5-bromomethyl-4,6-difluorobenzo[b]thiophene.

reactant | 4,6-difluoro-5-methylbenzo[b]thiophene | 0.48 g | FC1=C(C(=CC=2SC=CC21)F)C | C9H6F2S
reactant | N-bromosuccinimide | 0.92 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromomethyl-4,6-difluorobenzo[b]thiophene | BrCC1=C(C2=C(SC=C2)C=C1F)F | C9H5BrF2S
